US07214673B2
(S)-2-(1,4-Dibenzyl-piperazin-2-yl)-1-phenyl-ethanol
Add phenyllithium (11.3 mL, 20.4 mmol, 1.8 M in cyclohexane-ether) dropwise to a −78° C. solution of (S)-(1,4-dibenzyl-piperazin-2-yl)-acetaldehyde (4.2 g, 13.6 mmol) in THF (60 mL). Stir 30 min at −78° C. and 4 h at ambient temperature. Add ice, brine, and extract with ether. Wash the extracts with brine, dry with sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (1%–4%) as the eluent to give 3.98 g (76%) of the title compound: mass spectrum (ion spray): m/z=387 (M+1). HR-MS calculated for C26H31N2O: 387.2436. Found 387.2442.

reactant | phenyllithium | 20.4 mmol, 1.8 M, 11.3 mL | C1(=CC=CC=C1)[Li]
reactant | (S)-(1,4-dibenzyl-piperazin-2-yl)-acetaldehyde | 13.6 mmol, 4.2 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CC=O | C20H24N2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (S)-2-(1,4-Dibenzyl-piperazin-2-yl)-1-phenyl-ethanol | 3.98 g, 76% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C[C@H](O)C1=CC=CC=C1 | C26H30N2O
